US07507736B2
4-[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid methyl ester
The title compound was prepared in analogy to example 51, from [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride and methyl chloroformate. Light-yellow solid. MS (m/z): 429.3 (M+H)+.

reactant | [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCNCC1
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 4-[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid methyl ester | COC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C | C23H32N4O4
